US05447915
Distilled TFA (4.60 ml, 59.6 mmol) was added dropwise to a solution of N-Boc-D-Pro-D-Phe-OBn (2.70 g, 5.96 mmol) in dry dichloromethane (5.0 ml), and the mixture was stirred at room temperature for 4 hours. TFA and solvent were then removed by evaporation under reduced pressure, and the resulting residue redissolved in chloroform. Water and solid potassium carbonate were added in amounts sufficient to achieve & pH of 10 in the resulting aqueous solution, and the aqueous layer was then extensively extracted with chloroform. The combined organic layers were dried over MgSO4 and concentrated to yield crude D-Pro-D-Phe-OBn as a yellow oil which was used without further purification.

reactant | TFA | 59.6 mmol, 4.60 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | N-Boc-D-Pro-D-Phe-OBn | 5.96 mmol, 2.70 g | N1([C@@H](C(=O)N[C@H](CC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1)C(=O)OC(C)(C)C | C26H32N2O5
solvent | dichloromethane | 5.0 ml | ClCCl | CH2Cl2
product | D-Pro-D-Phe-OBn | N1[C@@H](C(=O)N[C@H](CC2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)CCC1 | C21H24N2O3
